US07402608B2
To a suspension of 3-amino-5-phenyl-thiophene-2-carboxylic acid methyl ester (987 mg, 4.23 mmol) in dry THF (1.0 ml), at room temperature, was added 1,4-cyclohexanedione monoethylene ketal (661 mg, 4.23 mmol), followed by dibutyltin dichloride (129 mg, 0.42 mmol). After 5 min, phenyl silane (575 μL, 4.65 mmol) was added and the reaction mixture was stirred at room temperature for 4 days when a clear solution resulted. It was then concentrated and the residue purified by flash chromatography (0% to 30% EtOAc/Hexane) to obtain 1.22 g (77%) of 3-(1,4-Dioxa-spiro[4.5]dec-8-ylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester.

reactant | 3-amino-5-phenyl-thiophene-2-carboxylic acid methyl ester | 4.23 mmol, 987 mg | COC(=O)C=1SC(=CC1N)C1=CC=CC=C1 | C12H11NO2S
reactant | 1,4-cyclohexanedione monoethylene ketal | 4.23 mmol, 661 mg | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | dibutyltin dichloride | 0.42 mmol, 129 mg | C(CCC)[Sn](CCCC)(Cl)Cl
reactant | phenyl silane | 4.65 mmol, 575 μL | C1(=CC=CC=C1)[SiH3] | C6H8Si
solvent | THF | 1.0 ml | C1CCOC1 | C4H8O
product | 3-(1,4-Dioxa-spiro[4.5]dec-8-ylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester | 1.22 g, 77% | COC(=O)C=1SC(=CC1NC1CCC2(OCCO2)CC1)C1=CC=CC=C1 | C20H23NO4S
